US05198548
Step C: Preparation of DL-3,3-Diphenylalanine hydrochloride
Crude ethyl N-(diphenylmethylene)-DL 3,3-diphenylalaninate is added to 2.5 L of 6N hydrochloric acid solution and heated at reflux for 6 hours. The reaction mixture is allowed to cool to room temperature overnight. The product is collected, washed with water (3×), diethyl ether (4×), and dried at 50° C./200 mm Hg. This affords 93.6 g of the title compound as a white crystalline material; mp >210° C. (dec).

reactant | 3,3-diphenylalaninate | C1(=CC=CC=C1)C([C@H](N)C(=O)[O-])C1=CC=CC=C1
reactant | hydrochloric acid | 6N, 2.5 L | Cl | ClH
product | 3,3-Diphenylalanine hydrochloride | Cl.C1(=CC=CC=C1)C([C@H](N)C(=O)O)C1=CC=CC=C1 | InChI=1S/C15H15NO2.ClH/c16-14(15(17)18)13(11-7-3-1-4-8-11)12-9-5-2-6-10-12;/h1-10,13-14H,16H2,(H,17,18);1H/t14-;/m0./s1
